US07868030B2
ii) 5-(6-Methoxy-pyridin-3-yl)-4-methyl-thiophene-2-sulfonyl chloride
2-Methoxy-5-(3-methyl-thiophen-2-yl)-pyridine (0.32 g, 1.6 mmol) was dissolved in THF/diethyl ether (10 ml, 1:1 v/v) and cooled to −70° C. BuLi (1.6M hexanes, 1 ml, 1.6 ml) was added dropwise and after a further 15 min at −70° C. the reaction mixture was added via canula to a condensed solution of SO2 (5 ml) in diethyl ether (10 ml). The yellow colored reaction mixture was slowly warmed to room temperature and stirred overnight. The reaction mixture was concentrated under reduced pressure and the residue washed with diethyl ether and dried. The crude solid (0.31 g) was suspended in dry n-hexane (7 ml), cooled using an ice bath to 0° C. and treated with a solution of sulfuryl chloride (1 M, 1.2 ml, 1.2 mmol) in CH2Cl2. The reaction mixture was slowly warmed to room temperature and analyzed (TLC) showing no starting material. Solvent was removed under reduced pressure and the crude product was purified over silica gel (n-heptane/tert.butylmethyl ether 1:9 to 1:4 v/v) to yield a white solid: 0.19 g (38%), MS: m/e 304.0 (MH+).

reactant | 2-Methoxy-5-(3-methyl-thiophen-2-yl)-pyridine | 1.6 mmol, 0.32 g | COC1=NC=C(C=C1)C=1SC=CC1C | C11H11NOS
reactant | BuLi | 1.6M, 1 ml | [Li]CCCC
reactant | sulfuryl chloride | 1.2 mmol, 1 M, 1.2 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | THF diethyl ether | 10 ml | C1CCOC1.C(C)OCC
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 5-(6-Methoxy-pyridin-3-yl)-4-methyl-thiophene-2-sulfonyl chloride | COC1=CC=C(C=N1)C1=C(C=C(S1)S(=O)(=O)Cl)C | C11H10ClNO3S2
